US06833457B1
Production of 4-(4-piperidylidenemethyl)benzamide
4-Cyanobenzyl bromide (49.0 g, 250 mmol), triethyl phosphite (45.7 g, 275 mmol) and toluene (49 mL) were charged,and the mixture was stirred and heated under reflux for 3 hrs., while distilling away the solvent at normal pressure. Then, the mixture was allowed to return to room temperature and concentrated under reduced pressure to give a colorless transparent oil. 4-Piperidone hydrochloride monohydrate (46.1 g, 300 mmol), ethanol (350 mL) and potassium hydroxide (pellet, 70.1 g, 1250 mmol) were added successively, and the mixture was stirred at room temperature for 30 min. and at 65-70° C. for 4 hrs. to give a pale-yellow suspension. Water (0.5 L) was added to the suspension at 20-25° C., and the mixture was extracted with ethyl acetate (2.0 L) and ethyl acetate-ethanol (17:3, 2.0 L). The obtained organic layers were combined, washed with saturated brine (1.0 L) and concentrated under reduced pressure. To the resulting residue was added ethyl acetate (150 mL), and the mixture was stirred at 0-5° C. for 30 min. The crystals were collected by filtration and dried to give a pale-yellow solid. 2-Propanol (140 mL) was added thereto, and the mixture was stirred at room temperature for 30 min. and further at 0-5° C. for 30 min. The crystals were collected by filtration and dried to give the title compound (17.3 g, yield 41.4%) as pale-yellow crystals.

reactant | 4-Cyanobenzyl bromide | 250 mmol, 49.0 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | triethyl phosphite | 275 mmol, 45.7 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 4-Piperidone hydrochloride monohydrate | 300 mmol, 46.1 g | O.Cl.N1CCC(CC1)=O
reactant | potassium hydroxide | 1250 mmol, 70.1 g | [OH-].[K+]
solvent | 2-Propanol | 140 mL | CC(C)O | C3H8O
solvent | Water | 0.5 L | O | H2O
solvent | ethanol | 350 mL | C(C)O | C2H6O
solvent | toluene | 49 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-piperidylidenemethyl)benzamide | 17.3 g, yield 41.4% | N1CCC(CC1)=CC1=CC=C(C(=O)N)C=C1 | C13H16N2O
